US07112697B1
4-Phenylsulfanyl-benzoic acid methyl ester (entry 5, Table 1):
The general procedure was used to convert Methyl-4-iodobenzoate and thiophenol to the title product. Purification by flash chromatography (hexane/ethyl acetate [6:1] as the eluent) gave the analytically pure product as a white solid (411 mg, 84% yield). 1H NMR (300 MHz, CDCl3) δ 7.88 (dt, J=8.67, 2H; Hb, Hb′), 7.51–7.47 (m, 2H; Hc, Hc′), 7.39–7.37 (m, 3H; Hd, Hd′, He), 7.21 (dt, J=8.67, 2H; Ha, Ha′), 3.89 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 166.60 (C13), 144.33 (C1), 133.63 (C4), 132.29 (C8, C12), 130.03 (C7), 129.58 (C9, C11), 128.60 (C3, C5), 127.47 (C10), 127.39 (C2, C6), 52.02 (C14). Anal. Calcd. for C14H12O2S: C, 68.83; H, 4.95; S, 13.13; Found C, 68.87; H, 4.95; S, 12.96. mp found: 70–71° C.

reactant | Methyl-4-iodobenzoate | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 4-Phenylsulfanyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)SC1=CC=CC=C1)=O | C14H12O2S
